US04642308
The procedure is similar to that described in Example 1, but starting with 2-thiophenecarboxylic acid (4 g), N,N'-carbonyldiimidazole (5.1 g) and 2-amino-7-chloro-1,8-naphthyridine (7 g). The product produced by precipitation in water (8.8 g; m.p. 175° C.) is dissolved in boiling methanol (150 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with methanol (3×10 cc) and dried at 40° C. under reduced pressure (0.067 kPa). N-(7-phenoxy-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide (6 g) is produced, m.p. 176° C.

reactant | 2-thiophenecarboxylic acid | 4 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | 2-amino-7-chloro-1,8-naphthyridine | 7 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | methanol | 150 cc | CO | CH4O
solvent | water | 8.8 g | O | H2O
product | N-(7-phenoxy-1,8-naphthyridin-2-yl)-2-thiophenecarboxamide | 6 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SC=CC1 | C19H13N3O2S
